US06894061B2
A vigorously stirred suspension of 2-iodoaniline (10.0 g, 45.7 mmol), potassium bromide (6.52 g, 54.8 mmol), and ammonium molybdate tetrahydrate (0.57 g, 0.46 mmol) in acetic acid (54 mL) was cooled to 0° C., treated with sodium perborate (7.74 g, 50.3 mmol), and stirred for two hours as the reaction warmed to room temperature. After adding water and stirring one additional hour, the reaction mixture was poured into ice-water and filtered. The filtered solid was washed with water, dissolved in ethyl acetate (250 mL), and washed with a saturated, aqueous, potassium carbonate solution (2×75 mL). The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford the intermediate, 4 bromo-2-iodoaniline, as a red solid (12.56 g, 92%).

reactant | 2-iodoaniline | 45.7 mmol, 10.0 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | potassium bromide | 54.8 mmol, 6.52 g | [Br-].[K+]
reactant | sodium perborate | 50.3 mmol, 7.74 g | B(=O)O[O-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 54 mL | C(C)(=O)O | C2H4O2
catalyst | ammonium molybdate tetrahydrate | 0.46 mmol, 0.57 g | [NH4+].[NH4+].O.O.O.O.[O-][Mo](=O)(=O)[O-]
product | bromo-2-iodoaniline | BrNC1=C(C=CC=C1)I | C6H5BrIN
